US08222262B2
Cyclohexyl-(2-indazol-1-yl-pyrimidin-4-yl)-amine (Compound A4)
Was prepared according to Method A from 2,4-dichloropyrimidine, cyclohexylamine and indazole. LC-ESI-HRMS of [M+H]+ shows 294.173 Da. Calc. 294.17187 Da, dev. 3.8 ppm.

reactant | 2,4-dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
product | Cyclohexyl-(2-indazol-1-yl-pyrimidin-4-yl)-amine | C1(CCCCC1)NC1=NC(=NC=C1)N1N=CC2=CC=CC=C12 | C17H19N5
